US04882323
2,3,4,5-Tetrahydro-3-Phenyl-1H-[1,2,5]Triazepino[1,2-a][1,2,4]Benzotriazine-7(8H)-One (XIV)
Hexahydro-1-(2-nitrophenyl)-5-phenyl-1H-1,2,5-triazepine (10.0 g) in 1,2-dimethoxyethane (500 ml) was hydrogenated over 10% palladium on carbon (2 g) at atmospheric pressure and room temperature until theoretical uptake was achieved. The mixture was filtered through Celite and the filter pad was washed with 1,2-dimethoxyethane. The filtrate was evaporated to approximately 100 ml and 1,1'-carbonyl-diimidazole (11 g) was added. The mixture, protected from moisture, was swirled and heated under reflux on a steam bath for 4 hours. The solution was evaporated to dryness. The residue in chloroform was applied to a column (75×5.4 cm) of dry column grade neutral alumina prepacked in chloroform. Elution was with chloroform and monitoring of fractions was by t.l.c. on Alox-25 uv254 plates (Brinkmann) with chloroform-methanol (9:1) as developer. The fractions containing the major component were evaporated to dryness and the residue was crystallized from chloroform-ether; wt. 7.45 g (75%), mp=196°198°. Three crystallizations from the same solvent system gave titled product, mp=198°-199°.

reactant | Hexahydro-1-(2-nitrophenyl)-5-phenyl-1H-1,2,5-triazepine | 10.0 g | [N+](=O)([O-])C1=C(C=CC=C1)N1NCCN(CC1)C1=CC=CC=C1 | C16H18N4O2
reactant | 1,2-dimethoxyethane | 500 ml | COCCOC | C4H10O2
catalyst | palladium on carbon | 2 g | [Pd] | Pd
product | 2,3,4,5-Tetrahydro-3-Phenyl-1H-[1,2,5]Triazepino[1,2-a][1,2,4]Benzotriazine-7(8H)-One | C1(=CC=CC=C1)N1CCN2N(C3=C(NC2=O)C=CC=C3)CC1 | C17H18N4O
